US08455477B2
(2E)-1-cyclopropyl-3-(dimethylamino)prop-2-en-1-one (327 mg, 2.35 mmol) and phenylhydrazine (0.35 ml, 3.5 mmol) were added to ethanol (5 ml). The reaction mixture was heated to 150° C. in the Biotage Initiator Series microwave reactor. After 30 minutes, the reaction mixture was cooled and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/hexanes gradient) to afford 3-cyclopropyl-1-phenyl-1H-pyrazole (faster eluting isomer) and 5-cyclopropyl-1-phenyl-1H-pyrazole (slower eluting isomer).

reactant | (2E)-1-cyclopropyl-3-(dimethylamino)prop-2-en-1-one | 2.35 mmol, 327 mg | C1(CC1)C(\C=C\N(C)C)=O | C8H13NO
reactant | phenylhydrazine | 3.5 mmol, 0.35 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-cyclopropyl-1-phenyl-1H-pyrazole | C1(CC1)C1=NN(C=C1)C1=CC=CC=C1 | C12H12N2
